US07534547B2
The reaction was conducted in the same manner as in the step (i) of the Example 31, except for using 2-(benzyloxy)-6-bromonaphthalene synthesized in the step (i) and 1-n-pentyne instead of 1-bromo-4-n-propylbenzene and trimethylsilylacetylene, respectively. The resultant was recrystallized from ethanol to give 2-(benzyloxy)-6-(2-n-propylethynyl)naphthalene.

reactant | 2-(benzyloxy)-6-bromonaphthalene | C(C1=CC=CC=C1)OC1=CC2=CC=C(C=C2C=C1)Br | C17H13BrO
reactant | 1-n-pentyne | C#CCCC | C5H8
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
product | 2-(benzyloxy)-6-(2-n-propylethynyl)naphthalene | C(C1=CC=CC=C1)OC1=CC2=CC=C(C=C2C=C1)C#CCCC | C22H20O
